* C:\Users\Jaret\Documents\MEGAsync\School\Physical Electronics - 19\Project 3\AudioAmplifier\AudioAmplifier.asc
VCC N001 0 6
C§DCB_2 N007 N006 100µ
RB1 N001 N007 665
RB2 N007 N010 100
RE3 N004 N010 60
R§Speaker OUT 0 32
V§Signal IN 0 SINE(0 {vSIG} 261.626) Rser=50
C§DCB_4 OUT N004 100µ
RV2 N006 0 10
RV1 N006 N005 10
C§DCB_1 N005 IN 100µ
RE1 N008 N010 99
R1 N009 N010 31
C§DCB_3 N008 N009 100µ
RC1 N001 N003 775
RE2 N001 N002 100
Q1 N003 N007 N008 0 2N3904
Q3 N001 N002 N004 0 2N3904
Q2 N010 N003 N002 0 2N3906
VEE 0 N010 6
.model NPN NPN
.model PNP PNP
.lib C:\Users\Jaret\Documents\LTspiceXVII\lib\cmp\standard.bjt
.step dec param vSIG 2.828m 282.8m 10
.tran 0 0.08791175 0.07644500 0.00382225
.meas TRAN vOUTp PP 0.5*V(OUT)
.meas TRAN gain PP 0.5*V(OUT)/vSIG
.op
.backanno
.end
